US05422358
Preparation of 3-(R)-(1-cyano-1,1-diphenylmethyl)-1-[2-(indan-5-yl)ethyl]piperidine
A mixture containing 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine (0.28 g), 5-(2-bromoethyl)indane (0.23 g--see Preparation 4), anhydrous potassium carbonate (0.3 g) and acetonitrile (10 ml) was heated under reflux for 5 hours. The mixture was partitioned between dichloromethane (30 ml) and 10% aqueous potassium carbonate (20 ml), the layers separated, and the aqueous layer extracted with dichloromethane (3×20 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with hexane containing dichloromethane (30% up to 70%) then dichloromethane containing methanol (0% up to 5%). The product-containing fractions were combined and concentrated in vacuo to give an oil which was crystallised from acetonitrile to give the title compound as colourless rhombs, yield 0.13 g, m.p. 88°-91° C.

reactant | 3-(R)-(+)-(1-cyano-1,1-diphenylmethyl)piperidine | 0.28 g | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CNCCC1 | C19H20N2
reactant | 5-(2-bromoethyl)indane | 0.23 g | BrCCC=1C=C2CCCC2=CC1 | C11H13Br
reactant | potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R)-(1-cyano-1,1-diphenylmethyl)-1-[2-(indan-5-yl)ethyl]piperidine | C(#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CN(CCC1)CCC=1C=C2CCCC2=CC1 | C30H32N2
